* E:\IRGoKartTimingGate\LogicBoard.asc
* Generated by LTspice 24.1.4 for Windows.
V1 N002 0 5V
R1 N002 N001 13.7k
R2 0 N001 280
C1 0 N001 1µF
I1 N003 0 SINE(183nA 83nA 490Hz 0 0 .001 20)
C2 N003 0 4pF
R3 N004 N003 2Meg
X§U1 N001 N003 N002 0 N004 LM358
R4 N003 0 3G
C3 N005 N004 0.1µF
R5 N005 0 16k
.lib OPA2333.lib
.tran 20ms
.lib LM358.MOD
.backanno
.end
